Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tylenol / Neurontin
 
Attending: ___
 
Chief Complaint:
RUQ abdominal pain, vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
-diagnostic para ___

 
History of Present Illness:
Mr ___ is a ___ year old man with cirrhosis (EtOH/HCV 
untreated, genotype 3)Child Class C, complicated by esophageal 
varices, ascites, and encephalopathy, chronic abdominal pain and 
multiple prior abdominal surgeries, presenting with 3 days of 
more severe RUQ pain, vomiting, and diarrhea.  

After a several month stay in rehab in ___ following his 
last ___ hospitalization in ___, the patient has been doing 
well at home. In his usual state of health, he has chronic RUQ 
abdominal pain, and is followed by his PCP and hepatologist; 
patient states that his pain has been attributed to possibly 
scar tissue from his several abdominal surgeries. He was 
previously on fentanyl patch for this but is now on oxycodone 
10mg QID. ___ checked ___. Last filled oxycodone 10mg 30 
day supply (120 pills) ___.  

He has Child's class C cirrhosis but overall his ascites and 
hepatic encephalopathy are well controlled with 
Lasix/spironolactone and lactulose. Prior paracentesis was 
"Several years ago."  

He developed his present symptoms 3 days ago, with the subacute 
onset of worsening RUQ pain (stabbing, constant with waves of 
more severe pain, worse with vomiting, no change with 
eating/position/movement). For the past 3 days he has also had 
___ episodes per day of vomiting (clear/yellow fluid, no blood 
or coffee-ground emesis), and has been unable to tolerate food, 
or fluids, and thinks he has also vomited pills (although has 
been trying to stay compliant with his regimen). He has also 
been having multiple episodes per day of watery/yellow fluid 
diarrhea (no blood or melena).  

His ROS is positive for chills/sweats, and fatigue. His 
abdominal distention is moderate but stable. But he denies 
fevers, myalgia/arthralgias, HA, URI symptoms, visual complaint, 
chest pain/pressure, dyspnea, cough, rash, bruising, lower 
extremity edema. No recent travel, sick contacts, or recent 
raw/uncooked/spoiled food.

He presented to the ED for further evaluation.  

In the ED, initial vitals were: Temp. 98.0, HR 82, BP 157/82, RR 
22, 100% RA  
- Exam notable for: RUQ tenderness to palpitation, abdomen 
distended but soft  
--Bedside abdominal ultrasound showed small volume of ascites 
without a pocket amenable to paracentesis.  

- Labs notable for:  
--WBC 5.4, Hgb 14.0, plt 181  
--Na 130, K 4.8, HCO3 15, creatinine 0.8, glucose 144, BUN 9  
--ALT 32, AST 127, alk phos 145, Tbili 4.7, albumin 2.8  
--lactate 2.6, repeat lactate 1.7  
--INR 1.4, PTT 38.7  

- Imaging was notable for:  
CT abdomen ___:  
1. Cirrhosis with evidence of portal hypertension with moderate 
volume ascites partially loculated in the right upper quadrant, 
extensive portosystemic varices. ***Partially occlusive thrombus 
in the main portal vein. *** 
2. Small bowel distention without obstruction may reflect ileus. 
Mild thickening of the proximal colon may reflect portal 
colopathy.  
3. Trace right pleural effusion with chronic appearing 
atelectasis in the right lower lung.  
4. Extensive atherosclerotic disease of the aorta.  
 
Liver US ___:  
1. There is a new nonocclusive thrombus within the main portal 
vein with extension into the left and right portal vein 
branches. There is normal hepatopetal flow within the main 
portable vein and evidence of sluggish flow within the left and 
right portal vein branches.  
2. Large volume ascites.  
3. Worsening splenomegaly measuring 13.7 cm today, previously 
measuring 12 cm ___.
4. New 1.6 cm focus within the right hepatic lobe is 
incompletely characterized. Follow-up MR for further evaluation 
is recommended.

- Patient was given:  
--morphine 4mg IV x2  
--ondansetron 4mg IV  
--1L normal saline  
--started on heparin drip  

Upon arrival to the floor, patient reports continued abdominal 
pain in the RUQ, and being very thirsty and a little hungry.  

REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI
 
Past Medical History:
 - Hepatitis C (genotype 3)  
 - Cirrhosis, Child's Class C due EtOH and HCV d/b hepatic 
encephalopathy, portal hypertension with ascites and esophageal 
varices, portal hypertensive gastropathy  
 - Gastric & Duodenal ulcers  
 - Insomnia  
 - Umbilical hernia  
 - Sacral osteoarthritis  
 
Past Surgical History:  
 - Umbilical hernia repair (___)  
 -SBO requiring Ex lap & repair of ruptured umbilical hernia 
with lysis of adhesions (___)
 - Abdominal Hematoma evacuation (___)  
 - Abdominal incision opened, wound vac placed (___) 
 
Social History:
___
Family History:
Sister and brother both with "collapsed lungs." No family 
history of liver disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==============================
VITAL SIGNS: BP 115 / 77 hr 64 RR18 SPO2 98 Ra  
GENERAL: chronically ill appearing man, resting in bed in 
moderate discomfort. Able to move around in bed without obvious 
increase in pain. Alert, fully conversant, very pleasant.  
HEENT: NCAT. Dry oral mucosa. No scleral icterus. Conjunctivae 
white. No JVD.  
NECK: full ROM, no masses  
CARDIAC: RRR, no murmurs, no lower extremity edema  
LUNGS: CTAB, unlabored breathing on ambient air  
ABDOMEN: moderately distended, but soft. Moderately tender in 
RUQ. Umbilical hernia site intact, non-tender. Dull to 
percussion, no fluid wave. Normal bowel sounds. Collateral 
vessels faintly visible in abdominal wall  
EXTREMITIES: warm, no edema. No asterixis  
NEUROLOGIC: alert, fully oriented. CN exam normal. 
Strength/sensation intact. Gait not tested. No asterixis or 
tremor.  
SKIN: no rashes, no jaundice  

DISCHARGE PHYSICAL EXAM:
==============================
VS: 98.1 PO 106 / 68 R Lying 68 18 96 Ra  
GENERAL: chronically ill appearing man, resting in bed in 
moderate discomfort.  
HEENT: NCAT. MMM. No scleral icterus
CARDIAC: RRR, no murmurs, no lower extremity edema  
LUNGS: CTAB, unlabored breathing on ambient air  
ABDOMEN: moderately distended, but soft. Moderately tender in 
RUQ. Umbilical hernia site intact, non-tender.  Normal bowel 
sounds. Collateral vessels faintly visible in abdominal wall  
EXTREMITIES: warm, no edema. No asterixis  
NEUROLOGIC: alert, fully oriented. CN exam normal. 
Strength/sensation intact. Gait not tested. No asterixis or 
tremor.  
SKIN: no rashes, no jaundice
 
Pertinent Results:
ADMISSION LABS:
==========================
___ 09:36AM BLOOD WBC-5.4 RBC-3.97* Hgb-14.0 Hct-42.2 
MCV-106* MCH-35.3* MCHC-33.2 RDW-14.2 RDWSD-56.4* Plt ___
___ 09:36AM BLOOD Neuts-65.3 ___ Monos-10.4 Eos-1.9 
Baso-1.7* Im ___ AbsNeut-3.51 AbsLymp-1.08* AbsMono-0.56 
AbsEos-0.10 AbsBaso-0.09*
___ 11:21AM BLOOD ___ PTT-38.7* ___
___ 09:36AM BLOOD Glucose-144* UreaN-9 Creat-0.8 Na-130* 
K-4.8 Cl-101 HCO3-15* AnGap-19
___ 09:36AM BLOOD ALT-32 AST-127* AlkPhos-145* TotBili-4.7*
___ 09:36AM BLOOD Albumin-2.8*
___ 05:00AM BLOOD Calcium-7.7* Phos-2.9 Mg-1.4*
___ 09:44AM BLOOD Lactate-2.6*

DISCHARGE LABS:
==========================
___ 04:46AM BLOOD WBC-5.1 RBC-3.46* Hgb-12.3* Hct-37.0* 
MCV-107* MCH-35.5* MCHC-33.2 RDW-14.2 RDWSD-55.5* Plt ___
___ 04:46AM BLOOD ___ PTT-36.8* ___
___ 04:46AM BLOOD Glucose-93 UreaN-9 Creat-0.9 Na-133 K-4.2 
Cl-99 HCO3-26 AnGap-12
___ 04:46AM BLOOD ALT-21 AST-63* AlkPhos-159* TotBili-2.3*
___ 04:46AM BLOOD Albumin-2.4* Calcium-8.0* Phos-3.6 Mg-1.6

PERTINENT RESULTS:
==========================
___ 01:55PM ASCITES TNC-64* RBC-650* Polys-1* Lymphs-48* 
Monos-6* Mesothe-2* Macroph-43* Other-0
___ 01:55PM ASCITES TotPro-1.7 Glucose-103 LD(LDH)-104 
Albumin-0.7 Cholest-19
___ 08:58PM STOOL NoroGI-NEGATIVE NoroGII-NEGATIVE

MICROBIOLOGY:
==========================
___ 1:55 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID. 

   Fluid Culture in Bottles (Preliminary):    NO GROWTH.

___ 1:48 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.

IMAGING:
==========================
___
IMPRESSION:
1. Cirrhosis with new partially occlusive thrombus within the 
main portal 
vein.
2. Large volume ascites. 
3. Worsening splenomegaly measuring 13.7 cm today, previously 
measuring 12 cm ___.
4. New 1.6 cm focus within the right hepatic lobe is 
incompletely characterized.  Follow-up MR for further evaluation 
is recommended.

___
IMPRESSION:
Tiny right pleural effusion, otherwise unremarkable exam.

___
IMPRESSION:
1. Cirrhosis with evidence of portal hypertension with moderate 
volume ascites partially loculated in the right upper quadrant, 
extensive portosystemic varices.  Partially occlusive thrombus 
in the main portal vein.
2. Small bowel distention without obstruction may reflect ileus. 
 Mild thickening of the proximal colon may reflect portal 
colopathy.
3. Trace right pleural effusion with chronic appearing 
atelectasis in the right lower lung.
4. Extensive atherosclerotic disease of the aorta.
 
Brief Hospital Course:
___ year old man with cirrhosis (EtOH/HCV untreated, genotype 3) 
Child Class C, complicated by esophageal varices, ascites, and 
encephalopathy, chronic abdominal pain and multiple prior 
abdominal surgeries, presenting with 3 days of acute on chronic 
RUQ pain, vomiting, and diarrhea likely ___ viral 
gastroenteritis. C.diff negative, norovorius negative. 
Diagnostic para w/ no e/o SBP. Stool Cx pending at time of 
discharge. Patient was given IV fluids with spontaneous 
resolution (though persistent chronic RUQ pain).

Hospital course complicated by new non-occlusive PVT, lactate 
slightly elevated on initial presentation normalized with IVF 
less c/f ischemia. Outpatient hepatologist (Dr. ___ was 
contacted who recommended against anticoagulation given 
non-occlusive, and concerns with patient compliance.

Otherwise no changes to home medications.

======================
ACUTE ISSUES
======================

#Abdominal pain, vomiting, diarrhea: presented with 3 days of 
acute on chronic RUQ pain, vomiting, and diarrhea likely ___ 
viral gastroenteritis. C.diff negative, norovorius negative. 
Diagnostic para w/ no e/o SBP. Stool Cx pending at time of 
discharge. Patient was given IV fluids with spontaneous 
resolution (though persistent chronic RUQ pain). Of note RUQ U/S 
and CT A/P w/ e/o non-occlusive PVT, though unlikely explanation 
for presentation as non-occlusive w/ down-trending lactate. 

#Partially occlusive portal vein thrombosis: iso decompensated 
cirrhosis; RUQ ultrasound and CT abdomen with contrast 
demonstrated partially occlusive portal vein thrombus, new since 
___ ultrasound. Lactate slightly elevated on initial 
presentation normalized with IVF less c/f ischemia. Outpatient 
hepatologist (Dr. ___ was contacted who recommended against 
anticoagulation given non-occlusive, and concerns with patient 
compliance.
  

#Hyponatremia : Admitted w/ serum sodium 130. Per history, 
multiple days of low fluid intake, diarrhea, vomiting, while 
continuing to take diuretics suggested he was intravascularly 
depleted. Resolved s/p 1L IVF, and resolution of gastroenteritis 
w/ improved PO intake. Home diuretics restarted upon discharge.

#Cirrhosis: Child's Class C, complicated by ascites, hepatic 
encephalopathy, prior SBP, esophageal varices. 
 -volume: home Lasix/spironolactone initially held iso n/v/d, 
resumed upon discharge.
 -hepatic encephalopathy - cont home lactulose after resolution 
of diarrhea
 -SBP ppx - cont home Bactrim 
 -esophageal varices - last EGD in ___ no evidence of bleeding 
on this presentation;

Transitional Issues:
==========================
-On RUQ U/S: There is a 1.6 cm echogenic focus within the mid 
right hepatic lobe, peripherally, for which follow-up MR for 
further evaluation is recommended.
-Patient w/ new non-occlusive PVT. Would recommend f/u CT in 3 
months to eval for progression of PVT thrombus.
-Stool cultures pending at time of discharge, please follow up

 # CODE: full 
 # CONTACT: sister/HCP ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Lactulose 30 mL PO TID 
3. Spironolactone 50 mg PO DAILY 
4. Famotidine 20 mg PO Q12H 
5. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN Pain - 
Moderate 
6. Multivitamins 1 TAB PO DAILY 
7. Potassium Chloride 10 mEq PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
2.  Famotidine 20 mg PO Q12H  
3.  Furosemide 20 mg PO DAILY  
4.  Lactulose 30 mL PO TID  
5.  Multivitamins 1 TAB PO DAILY  
6.  OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*8 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
8.  Potassium Chloride 10 mEq PO DAILY 
Hold for K >  
9.  Spironolactone 50 mg PO DAILY  
10.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
=======================
-viral gastroenteritis

Secondary Diagnosis:
======================
-ETOH/HCV Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure being involved in your care.

Why you were here:
-You came in for nausea/vomiting/diarrhea.

What we did while you were here :
-We gave you some fluids through your IV because you were 
dehydrated. We believe that you had a viral illness, which 
cleared on its own.
-We also took some fluid out of your abdomen to make sure you 
were not having an infection, and this was negative for any 
infection.

Your next steps:
-please take all your medications as indicated below
-please keep all of your appointments

We wish you well,
Your ___ Care Team
 
Followup Instructions:
___